US04486593
[4-(3-Pyridinylmethylamino)thiophenoxy]-acetic Acid, Methyl Ester
Following the procedure described in Example 9, (4-aminothiophenoxy)-acetic acid, methyl ester (Preparation 8) is reacted with 3-pyridinecarboxaldehyde (B-5A wherein m is 1) to yield the titled product.

reactant | (4-aminothiophenoxy)-acetic acid, methyl ester | NC1=CC=C(SCC(=O)OC)C=C1 | C9H11NO2S
reactant | 3-pyridinecarboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | [4-(3-Pyridinylmethylamino)thiophenoxy]-acetic Acid, Methyl Ester | N1=CC(=CC=C1)CNC1=CC=C(SCC(=O)OC)C=C1 | C15H16N2O2S
